US09227986B2
Synthesis of 2-(5′-(tert-butyl)-[2,2′-bithiophen]-5-yl)-6-methoxybenzofuran (117)
(Z)-5-(tert-butyl)-5′-(2-chloro-1-(3-methoxyphenoxy)vinyl)-2,2′-bithiophene (2.9 g, 7.16 mmol) and DPEphos (0.19 g, 0.36 mmol) were dissolved in anhydrous 1,4-dioxane (40 mL). Cesium carbonate (7.0 g, 21.5 mmol) and cesium fluoride (3.3 g, 21.5 mmol) were added and the reaction mixture was deoxygenated by bubbling argon through it for 1 hour. Tris(dibenzylideneacetone)dipalladium(0) (0.16 g, 0.18 mmol) was added and the reaction mixture was heated to reflux for 20 hours. After cooling to room temperature, the reaction mixture was filtered, poured into water (250 mL), mixed well and separated. The aqueous portion was extracted with ether (2×200 mL) and the combined organics were washed with water (500 mL), dried over MgSO4, filtered and solvent removed by rotary evaporation. The resulting brown solid was redissolved in DCM (250 mL) and deposited onto silica gel. Flash chromatography (combi-flash, hexanes) afforded a yellow, powdery solid, 1.53 g (58%). 1H NMR (600 MHz, CDCl3) δ 7.40 (d, J=8.5 Hz, 1H), 7.29 (d, J=3.8 Hz, 1H), 7.07 (d, J=3.8 Hz, 1H), 7.04 (d, J=1.4 Hz, 1H), 7.01 (d, J=3.6 Hz, 1H), 6.86 (dd, J=8.5, 2.2 Hz, 1H), 6.76 (s, 1H), 6.75 (d, J=3.6 Hz, 1H), 3.87 (s, 3H), 1.41 (s, 9H).

reactant | (Z)-5-(tert-butyl)-5′-(2-chloro-1-(3-methoxyphenoxy)vinyl)-2,2′-bithiophene | 7.16 mmol, 2.9 g | C(C)(C)(C)C1=CC=C(S1)C=1SC(=CC1)/C(=C/Cl)/OC1=CC(=CC=C1)OC | C21H21ClO2S2
reactant | DPEphos | 0.36 mmol, 0.19 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | Cesium carbonate | 21.5 mmol, 7.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cesium fluoride | 21.5 mmol, 3.3 g | [F-].[Cs+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.18 mmol, 0.16 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(5′-(tert-butyl)-[2,2′-bithiophen]-5-yl)-6-methoxybenzofuran | C(C)(C)(C)C1=CC=C(S1)C=1SC(=CC1)C=1OC2=C(C1)C=CC(=C2)OC | C21H20O2S2
